US07514578B2
Preparation of methyl 2-benzoylamino-3-phenylaminoacrylate
10g (39.5 mmol) of methyl 2-benzoylamino-3-dimethylaminoacrylate and 11.1 g (118 mmol) of aniline were dissolved at 40° C. in 200 ml of isopropanol. The solution was admixed with 3.6 ml (43.5 mmol) of concentrated hydrochloric acid within 5 minutes (min) and stirred for a further 10 min. 200 ml of deionized water were added, the suspension was cooled to 10° C. and the crystallized product was filtered off. Yield: 11.5 g (92% of theory) 1H NMR: 3.62 (s, 3H); 6.90-7.00 (m, 1H); 7.19 (d, 2H); 7.25-7.30 (m, 2H); 7.48-7.61 (m, 3H); 7.93 (d, 1H); 8.02 (d, 2H); 8.90 (d, 1H); 9.15 (s, 1H)

reactant | methyl 2-benzoylamino-3-dimethylaminoacrylate | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)=CN(C)C | C13H16N2O3
reactant | aniline | 118 mmol, 11.1 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 43.5 mmol, 3.6 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | methyl 2-benzoylamino-3-phenylaminoacrylate | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)=CNC1=CC=CC=C1 | C17H16N2O3
